US07211576B2
1′-(4-Nitro-phenyl)-[1,4′]bipiperidinyl
The compound was prepared from 4-piperidin-4-yl-piperidine (Aldrich) and 4-fluoro-nitrobenzene (Aldrich) following the procedure used in Example 1. MS (m+H)+: 290.

reactant | 4-piperidin-4-yl-piperidine | N1CCC(CC1)C1CCNCC1 | C10H20N2
reactant | 4-fluoro-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1′-(4-Nitro-phenyl)-[1,4′]bipiperidinyl | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CCCCC1 | C16H23N3O2
